US06576630B1
A mixture of isonicotinic acid (3 g), N-hydroxysuccinimide (2.79 g) and N,N-dicyclohexylcarbodiimide (5.52 g) was stirred in THF (200 mL) for 16 hours. The solid was filtered off and the solvent evaporated under reduced pressure. The residue was triturated with ethyl acetate and more solid filtered off. The filtrates were concentrated under reduced pressure gave 2,5-dioxopyrrolidin-1-yl isonicotinate (5.27 g). MS: 221 [MH]+.

reactant | isonicotinic acid | 3 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | N-hydroxysuccinimide | 2.79 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2,5-dioxopyrrolidin-1-yl isonicotinate | 5.27 g | C(C1=CC=NC=C1)(=O)ON1C(CCC1=O)=O | C10H8N2O4
